* Copyright (c) Ulesikov A.V. aka Skywarrior 2005.  All rights reserved.
*
.subckt 2W005G 1 2 3 4 
D1 2 4 DI_2W005G
D2 1 4 DI_2W005G
D3 3 2 DI_2W005G
D4 3 1 DI_2W005G
.MODEL DI_2W005G D (IS=28.4n RS=21.1m BV=50.0 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W005G
.subckt 2W01G 1 2 3 4 
D1 2 4 DI_2W01G
D2 1 4 DI_2W01G
D3 3 2 DI_2W01G
D4 3 1 DI_2W01G
.MODEL DI_2W01G D (IS=28.4n RS=21.1m BV=100 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W01G
.subckt 2W02G 1 2 3 4 
D1 2 4 DI_2W02G
D2 1 4 DI_2W02G
D3 3 2 DI_2W02G
D4 3 1 DI_2W02G
.MODEL DI_2W02G D (IS=28.4n RS=21.1m BV=200 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W02G
.subckt 2W04G 1 2 3 4 
D1 2 4 DI_2W04G
D2 1 4 DI_2W04G
D3 3 2 DI_2W04G
D4 3 1 DI_2W04G
.MODEL DI_2W04G D (IS=28.4n RS=21.1m BV=400 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W04G
.subckt 2W06G 1 2 3 4 
D1 2 4 DI_2W06G
D2 1 4 DI_2W06G
D3 3 2 DI_2W06G
D4 3 1 DI_2W06G
.MODEL DI_2W06G D (IS=28.4n RS=21.1m BV=600 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W06G
.subckt 2W08G 1 2 3 4 
D1 2 4 DI_2W08G
D2 1 4 DI_2W08G
D3 3 2 DI_2W08G
D4 3 1 DI_2W08G
.MODEL DI_2W08G D (IS=28.4n RS=21.1m BV=800 IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W08G
.subckt 2W10G 1 2 3 4 
D1 2 4 DI_2W10G
D2 1 4 DI_2W10G
D3 3 2 DI_2W10G
D4 3 1 DI_2W10G
.MODEL DI_2W10G D (IS=28.4n RS=21.1m BV=1.00k IBV=5.00u CJO=29.6p M=0.333 N=1.95 TT=4.32u)
.ends 2W10G
.subckt DF005M 1 2 3 4 
D1 2 4 DI_DF005M
D2 1 4 DI_DF005M
D3 3 2 DI_DF005M
D4 3 1 DI_DF005M
.MODEL DI_DF005M D (IS=4.42n RS=42.0m BV=50.0 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF005M
.subckt DF005S 1 2 3 4 
D1 2 4 DI_DF005S
D2 1 4 DI_DF005S
D3 3 2 DI_DF005S
D4 3 1 DI_DF005S
.MODEL DI_DF005S D (IS=4.42n RS=42.0m BV=50.0 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF005S
.subckt DF01M 1 2 3 4 
D1 2 4 DI_DF01M
D2 1 4 DI_DF01M
D3 3 2 DI_DF01M
D4 3 1 DI_DF01M
.MODEL DI_DF01M D (IS=4.42n RS=42.0m BV=100 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF01M
.subckt DF01S 1 2 3 4 
D1 2 4 DI_DF01S
D2 1 4 DI_DF01S
D3 3 2 DI_DF01S
D4 3 1 DI_DF01S
.MODEL DI_DF01S D (IS=4.42n RS=42.0m BV=100 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF01S
.subckt DF02M 1 2 3 4 
D1 2 4 DI_DF02M
D2 1 4 DI_DF02M
D3 3 2 DI_DF02M
D4 3 1 DI_DF02M
.MODEL DI_DF02M D (IS=4.42n RS=42.0m BV=200 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF02M
.subckt DF02S 1 2 3 4 
D1 2 4 DI_DF02S
D2 1 4 DI_DF02S
D3 3 2 DI_DF02S
D4 3 1 DI_DF02S
.MODEL DI_DF02S D (IS=4.42n RS=42.0m BV=200 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF02S
.subckt DF04M 1 2 3 4 
D1 2 4 DI_DF04M
D2 1 4 DI_DF04M
D3 3 2 DI_DF04M
D4 3 1 DI_DF04M
.MODEL DI_DF04M D (IS=4.42n RS=42.0m BV=400 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF04M
.subckt DF04S 1 2 3 4 
D1 2 4 DI_DF04S
D2 1 4 DI_DF04S
D3 3 2 DI_DF04S
D4 3 1 DI_DF04S
.MODEL DI_DF04S D (IS=4.42n RS=42.0m BV=400 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF04S
.subckt DF06M 1 2 3 4 
D1 2 4 DI_DF06M
D2 1 4 DI_DF06M
D3 3 2 DI_DF06M
D4 3 1 DI_DF06M
.MODEL DI_DF06M D (IS=4.42n RS=42.0m BV=600 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF06M
.subckt DF06S 1 2 3 4 
D1 2 4 DI_DF06S
D2 1 4 DI_DF06S
D3 3 2 DI_DF06S
D4 3 1 DI_DF06S
.MODEL DI_DF06S D (IS=4.42n RS=42.0m BV=600 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF06S
.subckt DF08M 1 2 3 4 
D1 2 4 DI_DF08M
D2 1 4 DI_DF08M
D3 3 2 DI_DF08M
D4 3 1 DI_DF08M
.MODEL DI_DF08M D (IS=4.42n RS=42.0m BV=800 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF08M
.subckt DF08S 1 2 3 4 
D1 2 4 DI_DF08S
D2 1 4 DI_DF08S
D3 3 2 DI_DF08S
D4 3 1 DI_DF08S
.MODEL DI_DF08S D (IS=4.42n RS=42.0m BV=800 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF08S
.subckt DF10M 1 2 3 4 
D1 2 4 DI_DF10M
D2 1 4 DI_DF10M
D3 3 2 DI_DF10M
D4 3 1 DI_DF10M
.MODEL DI_DF10M D (IS=4.42n RS=42.0m BV=1.00k IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF10M
.subckt DF10S 1 2 3 4 
D1 2 4 DI_DF10S
D2 1 4 DI_DF10S
D3 3 2 DI_DF10S
D4 3 1 DI_DF10S
.MODEL DI_DF10S D (IS=4.42n RS=42.0m BV=1.00k IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF10S
.subckt DF15005M 1 2 3 4 
D1 2 4 DI_DF15005M
D2 1 4 DI_DF15005M
D3 3 2 DI_DF15005M
D4 3 1 DI_DF15005M
.MODEL DI_DF15005M D (IS=2.06n RS=28.1m BV=50.0 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF15005M
.subckt DF15005S 1 2 3 4 
D1 2 4 DI_DF15005S
D2 1 4 DI_DF15005S
D3 3 2 DI_DF15005S
D4 3 1 DI_DF15005S
.MODEL DI_DF15005S D (IS=2.06n RS=28.1m BV=50.0 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF15005S
.subckt DF1501M  1 2 3 4 
D1 2 4 DI_DF1501M
D2 1 4 DI_DF1501M
D3 3 2 DI_DF1501M
D4 3 1 DI_DF1501M
.MODEL DI_DF1501M D (IS=2.06n RS=28.1m BV=100 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1501M
.subckt DF1501S 1 2 3 4 
D1 2 4 DI_DF1501S
D2 1 4 DI_DF1501S
D3 3 2 DI_DF1501S
D4 3 1 DI_DF1501S
.MODEL DI_DF1501S D (IS=2.06n RS=28.1m BV=100 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1501S
.subckt DF1502M  1 2 3 4 
D1 2 4 DI_DF1502M
D2 1 4 DI_DF1502M
D3 3 2 DI_DF1502M
D4 3 1 DI_DF1502M
.MODEL DI_DF1502M D (IS=2.06n RS=28.1m BV=200 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1502M
.subckt DF1502S  1 2 3 4 
D1 2 4 DI_DF1502S
D2 1 4 DI_DF1502S
D3 3 2 DI_DF1502S
D4 3 1 DI_DF1502S
.MODEL DI_DF1502S D (IS=2.06n RS=28.1m BV=200 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1502S
.subckt DF1504M  1 2 3 4 
D1 2 4 DI_DF1504M
D2 1 4 DI_DF1504M
D3 3 2 DI_DF1504M
D4 3 1 DI_DF1504M
.MODEL DI_DF1504M D (IS=2.06n RS=28.1m BV=400 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1504M
.subckt DF1504S  1 2 3 4 
D1 2 4 DI_DF1504S
D2 1 4 DI_DF1504S
D3 3 2 DI_DF1504S
D4 3 1 DI_DF1504S
.MODEL DI_DF1504S D (IS=2.06n RS=28.1m BV=400 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1504S
.subckt DF1506M  1 2 3 4 
D1 2 4 DI_DF1506M
D2 1 4 DI_DF1506M
D3 3 2 DI_DF1506M
D4 3 1 DI_DF1506M
.MODEL DI_DF1506M D (IS=2.06n RS=28.1m BV=600 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1506M
.subckt DF1506S  1 2 3 4 
D1 2 4 DI_DF1506S
D2 1 4 DI_DF1506S
D3 3 2 DI_DF1506S
D4 3 1 DI_DF1506S
.MODEL DI_DF1506S D (IS=2.06n RS=28.1m BV=600 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1506S
.subckt DF1508M  1 2 3 4 
D1 2 4 DI_DF1508M
D2 1 4 DI_DF1508M
D3 3 2 DI_DF1508M
D4 3 1 DI_DF1508M
.MODEL DI_DF1508M D (IS=2.06n RS=28.1m BV=800 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1508M
.subckt DF1508S  1 2 3 4 
D1 2 4 DI_DF1508S
D2 1 4 DI_DF1508S
D3 3 2 DI_DF1508S
D4 3 1 DI_DF1508S
.MODEL DI_DF1508S D (IS=2.06n RS=28.1m BV=800 IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1508S
.subckt DF1510M  1 2 3 4 
D1 2 4 DI_DF1510M
D2 1 4 DI_DF1510M
D3 3 2 DI_DF1510M
D4 3 1 DI_DF1510M
.MODEL DI_DF1510M D (IS=2.06n RS=28.1m BV=1.00k IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1510M
.subckt DF1510S  1 2 3 4 
D1 2 4 DI_DF1510S
D2 1 4 DI_DF1510S
D3 3 2 DI_DF1510S
D4 3 1 DI_DF1510S
.MODEL DI_DF1510S D (IS=2.06n RS=28.1m BV=1.00k IBV=10.0u CJO=65.0p M=0.333 N=1.70 TT=4.32u)
.ends DF1510S
.subckt GBJ15005  1 2 3 4 
D1 2 4 DI_GBJ15005
D2 1 4 DI_GBJ15005
D3 3 2 DI_GBJ15005
D4 3 1 DI_GBJ15005
.MODEL DI_GBJ15005 D (IS=5.11u RS=3.43m BV=50.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ15005
.subckt GBJ1501  1 2 3 4 
D1 2 4 DI_GBJ1501
D2 1 4 DI_GBJ1501
D3 3 2 DI_GBJ1501
D4 3 1 DI_GBJ1501
.MODEL DI_GBJ1501 D (IS=5.11u RS=3.43m BV=100.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1501
.subckt GBJ1502  1 2 3 4 
D1 2 4 DI_GBJ1502
D2 1 4 DI_GBJ1502
D3 3 2 DI_GBJ1502
D4 3 1 DI_GBJ1502
.MODEL DI_GBJ1502 D (IS=5.11u RS=3.43m BV=200.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1502
.subckt GBJ1504  1 2 3 4 
D1 2 4 DI_GBJ1504
D2 1 4 DI_GBJ1504
D3 3 2 DI_GBJ1504
D4 3 1 DI_GBJ1504
.MODEL DI_GBJ1504 D (IS=5.11u RS=3.43m BV=400.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1504
.subckt GBJ1506  1 2 3 4 
D1 2 4 DI_GBJ1506
D2 1 4 DI_GBJ1506
D3 3 2 DI_GBJ1506
D4 3 1 DI_GBJ1506
.MODEL DI_GBJ1506 D (IS=5.11u RS=3.43m BV=600.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1506
.subckt GBJ1508  1 2 3 4 
D1 2 4 DI_GBJ1508
D2 1 4 DI_GBJ1508
D3 3 2 DI_GBJ1508
D4 3 1 DI_GBJ1508
.MODEL DI_GBJ1508 D (IS=5.11u RS=3.43m BV=800.0 IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1508
.subckt GBJ1510  1 2 3 4 
D1 2 4 DI_GBJ1510
D2 1 4 DI_GBJ1510
D3 3 2 DI_GBJ1510
D4 3 1 DI_GBJ1510
.MODEL DI_GBJ1510 D (IS=5.11u RS=3.43m BV=1.00k IBV=10.0u CJO=106p  M=0.333 N=2.44 TT=4.32u)
.ends GBJ1510
.subckt GBJ20005  1 2 3 4 
D1 2 4 DI_GBJ20005
D2 1 4 DI_GBJ20005
D3 3 2 DI_GBJ20005
D4 3 1 DI_GBJ20005
.MODEL DI_GBJ20005 D (IS=15.1u RS=2.96m BV=50.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ20005
.subckt GBJ2001  1 2 3 4 
D1 2 4 DI_GBJ2001
D2 1 4 DI_GBJ2001
D3 3 2 DI_GBJ2001
D4 3 1 DI_GBJ2001
.MODEL DI_GBJ2001 D (IS=15.1u RS=2.96m BV=100.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2001
.subckt GBJ2002  1 2 3 4 
D1 2 4 DI_GBJ2002
D2 1 4 DI_GBJ2002
D3 3 2 DI_GBJ2002
D4 3 1 DI_GBJ2002
.MODEL DI_GBJ2002 D (IS=15.1u RS=2.96m BV=200.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2002
.subckt GBJ2004  1 2 3 4 
D1 2 4 DI_GBJ2004
D2 1 4 DI_GBJ2004
D3 3 2 DI_GBJ2004
D4 3 1 DI_GBJ2004
.MODEL DI_GBJ2004 D (IS=15.1u RS=2.96m BV=400.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2004
.subckt GBJ2006  1 2 3 4 
D1 2 4 DI_GBJ2006
D2 1 4 DI_GBJ2006
D3 3 2 DI_GBJ2006
D4 3 1 DI_GBJ2006
.MODEL DI_GBJ2006 D (IS=15.1u RS=2.96m BV=600.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2006
.subckt GBJ2008  1 2 3 4 
D1 2 4 DI_GBJ2008
D2 1 4 DI_GBJ2008
D3 3 2 DI_GBJ2008
D4 3 1 DI_GBJ2008
.MODEL DI_GBJ2008 D (IS=15.1u RS=2.96m BV=800.0 IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2008
.subckt GBJ2010  1 2 3 4 
D1 2 4 DI_GBJ2010
D2 1 4 DI_GBJ2010
D3 3 2 DI_GBJ2010
D4 3 1 DI_GBJ2010
.MODEL DI_GBJ2010 D (IS=15.1u RS=2.96m BV=1.00kV IBV=10.0u CJO=111p M=0.333 N=2.84 TT=4.32u)
.ends GBJ2010
.subckt GBJ2510  1 2 3 4 
D1 2 4 DI_GBJ2510
D2 1 4 DI_GBJ2510
D3 3 2 DI_GBJ2510
D4 3 1 DI_GBJ2510
.MODEL DI_GBJ2510 D (IS=379n RS=2.84m BV=1.00k IBV=10.0u CJO=146p M=0.333 N=2.07 TT=4.32u)
.ends GBJ2510
.subckt GBPC3506  1 2 3 4 
D1 2 4 DI_GBPC3506
D2 1 4 DI_GBPC3506
D3 3 2 DI_GBPC3506
D4 3 1 DI_GBPC3506
.MODEL DI_GBPC3506 D (IS=162u RS=3.32m BV=600 IBV=5.00u CJO=477p  M=0.333 N=3.01 TT=4.32u)
.ends GBPC3506
.subckt GBU1002  1 2 3 4 
D1 2 4 DI_GBU1002
D2 1 4 DI_GBU1002
D3 3 2 DI_GBU1002
D4 3 1 DI_GBU1002
.MODEL DI_GBU1002 D (IS=1.71f RS=7.00m BV=200 IBV=5.00u CJO=133p M=0.333 N=0.900 TT=4.32u)
.ends GBU1002
.subckt GBU4005  1 2 3 4 
D1 2 4 DI_GBU4005
D2 1 4 DI_GBU4005
D3 3 2 DI_GBU4005
D4 3 1 DI_GBU4005
.MODEL DI_GBU4005 D (IS=23.3n RS=7.20m BV=50.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU4005
.subckt GBU401  1 2 3 4 
D1 2 4 DI_GBU401
D2 1 4 DI_GBU401
D3 3 2 DI_GBU401
D4 3 1 DI_GBU401
.MODEL DI_GBU401 D (IS=23.3n RS=7.20m BV=100.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU401
.subckt GBU402  1 2 3 4 
D1 2 4 DI_GBU402
D2 1 4 DI_GBU402
D3 3 2 DI_GBU402
D4 3 1 DI_GBU402
.MODEL DI_GBU402 D (IS=23.3n RS=7.20m BV=200.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU402
.subckt GBU404  1 2 3 4 
D1 2 4 DI_GBU404
D2 1 4 DI_GBU404
D3 3 2 DI_GBU404
D4 3 1 DI_GBU404
.MODEL DI_GBU404 D (IS=23.3n RS=7.20m BV=400.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU404
.subckt GBU406  1 2 3 4 
D1 2 4 DI_GBU406
D2 1 4 DI_GBU406
D3 3 2 DI_GBU406
D4 3 1 DI_GBU406
.MODEL DI_GBU406 D (IS=23.3n RS=7.20m BV=600.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU406
.subckt GBU408  1 2 3 4 
D1 2 4 DI_GBU408
D2 1 4 DI_GBU408
D3 3 2 DI_GBU408
D4 3 1 DI_GBU408
.MODEL DI_GBU408 D (IS=23.3n RS=7.20m BV=800.0 IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU408
.subckt GBU410  1 2 3 4 
D1 2 4 DI_GBU410
D2 1 4 DI_GBU410
D3 3 2 DI_GBU410
D4 3 1 DI_GBU410
.MODEL DI_GBU410 D (IS=23.3n RS=7.20m BV=1.00kV IBV=5.00u CJO=148p  M=0.333 N=1.80 TT=4.32u)
.ends GBU410
.subckt GBU8005  1 2 3 4 
D1 2 4 DI_GBU8005
D2 1 4 DI_GBU8005
D3 3 2 DI_GBU8005
D4 3 1 DI_GBU8005
.MODEL DI_GBU8005 D (IS=17.8p RS=7.59m BV=50.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU8005
.subckt GBU801  1 2 3 4 
D1 2 4 DI_GBU801
D2 1 4 DI_GBU801
D3 3 2 DI_GBU801
D4 3 1 DI_GBU801
.MODEL DI_GBU801 D (IS=17.8p RS=7.59m BV=100.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU801
.subckt GBU802  1 2 3 4 
D1 2 4 DI_GBU802
D2 1 4 DI_GBU802
D3 3 2 DI_GBU802
D4 3 1 DI_GBU802
.MODEL DI_GBU802 D (IS=17.8p RS=7.59m BV=200.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU802
.subckt GBU804  1 2 3 4 
D1 2 4 DI_GBU804
D2 1 4 DI_GBU804
D3 3 2 DI_GBU804
D4 3 1 DI_GBU804
.MODEL DI_GBU804 D (IS=17.8p RS=7.59m BV=400.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU804
.subckt GBU806  1 2 3 4 
D1 2 4 DI_GBU806
D2 1 4 DI_GBU806
D3 3 2 DI_GBU806
D4 3 1 DI_GBU806
.MODEL DI_GBU806 D (IS=17.8p RS=7.59m BV=600.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU806
.subckt GBU808  1 2 3 4 
D1 2 4 DI_GBU808
D2 1 4 DI_GBU808
D3 3 2 DI_GBU808
D4 3 1 DI_GBU808
.MODEL DI_GBU808 D (IS=17.8p RS=7.59m BV=800.0 IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU808
.subckt GBU810  1 2 3 4 
D1 2 4 DI_GBU810
D2 1 4 DI_GBU810
D3 3 2 DI_GBU810
D4 3 1 DI_GBU810
.MODEL DI_GBU810 D (IS=17.8p RS=7.59m BV=1.00kV IBV=5.00u CJO=240p M=0.333 N=1.25 TT=4.32u)
.ends GBU810
.subckt HD01  1 2 3 4 
D1 2 4 DI_HD01
D2 1 4 DI_HD01
D3 3 2 DI_HD01
D4 3 1 DI_HD01
.MODEL DI_HD01 D (IS=3.47n RS=42.6m BV=100 IBV=5.00u CJO=25.2p M=0.333 N=1.70 TT=4.32u)
.ends HD01
.subckt HD02  1 2 3 4 
D1 2 4 DI_HD02
D2 1 4 DI_HD02
D3 3 2 DI_HD02
D4 3 1 DI_HD02
.MODEL DI_HD02 D (IS=3.47n RS=42.6m BV=200 IBV=5.00u CJO=25.2p M=0.333 N=1.70 TT=4.32u)
.ends HD02
.subckt HD04  1 2 3 4 
D1 2 4 DI_HD04
D2 1 4 DI_HD04
D3 3 2 DI_HD04
D4 3 1 DI_HD04
.MODEL DI_HD04 D (IS=3.47n RS=42.6m BV=400 IBV=5.00u CJO=25.2p M=0.333 N=1.70 TT=4.32u)
.ends HD04
.subckt HD06  1 2 3 4 
D1 2 4 DI_HD06
D2 1 4 DI_HD06
D3 3 2 DI_HD06
D4 3 1 DI_HD06
.MODEL DI_HD06 D (IS=3.47n RS=42.6m BV=600 IBV=5.00u CJO=25.2p M=0.333 N=1.70 TT=4.32u)
.ends HD06
.subckt KBJ4005G  1 2 3 4 
D1 2 4 DI_KBJ4005G
D2 1 4 DI_KBJ4005G
D3 3 2 DI_KBJ4005G
D4 3 1 DI_KBJ4005G
.MODEL DI_KBJ4005G D (IS=656n RS=10.5m BV=50.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ4005G
.subckt KBJ401G  1 2 3 4 
D1 2 4 DI_KBJ401G
D2 1 4 DI_KBJ401G
D3 3 2 DI_KBJ401G
D4 3 1 DI_KBJ401G
.MODEL DI_KBJ401G D (IS=656n RS=10.5m BV=100.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ401G
.subckt KBJ402G  1 2 3 4 
D1 2 4 DI_KBJ402G
D2 1 4 DI_KBJ402G
D3 3 2 DI_KBJ402G
D4 3 1 DI_KBJ402G
.MODEL DI_KBJ402G D (IS=656n RS=10.5m BV=200.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ402G
.subckt KBJ404G  1 2 3 4 
D1 2 4 DI_KBJ404G
D2 1 4 DI_KBJ404G
D3 3 2 DI_KBJ404G
D4 3 1 DI_KBJ404G
.MODEL DI_KBJ404G D (IS=656n RS=10.5m BV=400.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ404G
.subckt KBJ406G  1 2 3 4 
D1 2 4 DI_KBJ406G
D2 1 4 DI_KBJ406G
D3 3 2 DI_KBJ406G
D4 3 1 DI_KBJ406G
.MODEL DI_KBJ406G D (IS=656n RS=10.5m BV=600.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ406G
.subckt KBJ408G  1 2 3 4 
D1 2 4 DI_KBJ408G
D2 1 4 DI_KBJ408G
D3 3 2 DI_KBJ408G
D4 3 1 DI_KBJ408G
.MODEL DI_KBJ408G D (IS=656n RS=10.5m BV=800.0 IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ408G
.subckt KBJ410G  1 2 3 4 
D1 2 4 DI_KBJ410G
D2 1 4 DI_KBJ410G
D3 3 2 DI_KBJ410G
D4 3 1 DI_KBJ410G
.MODEL DI_KBJ410G D (IS=656n RS=10.5m BV=1.00kV IBV=10.0u CJO=79.6p M=0.333 N=2.45 TT=4.32u)
.ends KBJ410G
.subckt KBP005G  1 2 3 4 
D1 2 4 DI_KBP005G
D2 1 4 DI_KBP005G
D3 3 2 DI_KBP005G
D4 3 1 DI_KBP005G
.MODEL DI_KBP005G D (IS=39.2u RS=28.1m BV=50.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP005G
.subckt KBP01G  1 2 3 4 
D1 2 4 DI_KBP01G
D2 1 4 DI_KBP01G
D3 3 2 DI_KBP01G
D4 3 1 DI_KBP01G
.MODEL DI_KBP01G D (IS=39.2u RS=28.1m BV=100.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP01G
.subckt KBP02G  1 2 3 4 
D1 2 4 DI_KBP02G
D2 1 4 DI_KBP02G
D3 3 2 DI_KBP02G
D4 3 1 DI_KBP02G
.MODEL DI_KBP02G D (IS=39.2u RS=28.1m BV=200.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP02G
.subckt KBP04G  1 2 3 4 
D1 2 4 DI_KBP04G
D2 1 4 DI_KBP04G
D3 3 2 DI_KBP04G
D4 3 1 DI_KBP04G
.MODEL DI_KBP04G D (IS=39.2u RS=28.1m BV=400.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP04G
.subckt KBP06G  1 2 3 4 
D1 2 4 DI_KBP06G
D2 1 4 DI_KBP06G
D3 3 2 DI_KBP06G
D4 3 1 DI_KBP06G
.MODEL DI_KBP06G D (IS=39.2u RS=28.1m BV=600.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP06G
.subckt KBP08G  1 2 3 4 
D1 2 4 DI_KBP08G
D2 1 4 DI_KBP08G
D3 3 2 DI_KBP08G
D4 3 1 DI_KBP08G
.MODEL DI_KBP08G D (IS=39.2u RS=28.1m BV=800.0 IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP08G
.subckt KBP10G  1 2 3 4 
D1 2 4 DI_KBP10G
D2 1 4 DI_KBP10G
D3 3 2 DI_KBP10G
D4 3 1 DI_KBP10G
.MODEL DI_KBP10G D (IS=39.2u RS=28.1m BV=1.00kV IBV=5.00u CJO=26.5p M=0.333 N=4.38 TT=4.32u)
.ends KBP10G
.subckt KBP2005G  1 2 3 4 
D1 2 4 DI_KBP2005G
D2 1 4 DI_KBP2005G
D3 3 2 DI_KBP2005G
D4 3 1 DI_KBP2005G
.MODEL DI_KBP2005G D (IS=143n RS=21.1m BV=50.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP2005G
.subckt KBP201G  1 2 3 4 
D1 2 4 DI_KBP201G
D2 1 4 DI_KBP201G
D3 3 2 DI_KBP201G
D4 3 1 DI_KBP201G
.MODEL DI_KBP201G D (IS=143n RS=21.1m BV=100.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP201G
.subckt KBP202G  1 2 3 4 
D1 2 4 DI_KBP202G
D2 1 4 DI_KBP202G
D3 3 2 DI_KBP202G
D4 3 1 DI_KBP202G
.MODEL DI_KBP202G D (IS=143n RS=21.1m BV=200.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP202G
.subckt KBP204G  1 2 3 4 
D1 2 4 DI_KBP204G
D2 1 4 DI_KBP204G
D3 3 2 DI_KBP204G
D4 3 1 DI_KBP204G
.MODEL DI_KBP204G D (IS=143n RS=21.1m BV=400.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP204G
.subckt KBP206G  1 2 3 4 
D1 2 4 DI_KBP206G
D2 1 4 DI_KBP206G
D3 3 2 DI_KBP206G
D4 3 1 DI_KBP206G
.MODEL DI_KBP206G D (IS=143n RS=21.1m BV=600.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP206G
.subckt KBP208G  1 2 3 4 
D1 2 4 DI_KBP208G
D2 1 4 DI_KBP208G
D3 3 2 DI_KBP208G
D4 3 1 DI_KBP208G
.MODEL DI_KBP208G D (IS=143n RS=21.1m BV=800.0 IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP208G
.subckt KBP210G  1 2 3 4 
D1 2 4 DI_KBP210G
D2 1 4 DI_KBP210G
D3 3 2 DI_KBP210G
D4 3 1 DI_KBP210G
.MODEL DI_KBP210G D (IS=143n RS=21.1m BV=1.00kV IBV=5.00u CJO=46.2p M=0.333 N=2.12 TT=4.32u)
.ends KBP210G
.subckt PBPC301  1 2 3 4 
D1 2 4 DI_PBPC301
D2 1 4 DI_PBPC301
D3 3 2 DI_PBPC301
D4 3 1 DI_PBPC301
.MODEL DI_PBPC301 D (IS=492n RS=14.1m BV=50.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC301
.subckt PBPC302  1 2 3 4 
D1 2 4 DI_PBPC302
D2 1 4 DI_PBPC302
D3 3 2 DI_PBPC302
D4 3 1 DI_PBPC302
.MODEL DI_PBPC302 D (IS=492n RS=14.1m BV=100.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC301
.subckt PBPC303  1 2 3 4 
D1 2 4 DI_PBPC303
D2 1 4 DI_PBPC303
D3 3 2 DI_PBPC303
D4 3 1 DI_PBPC303
.MODEL DI_PBPC303 D (IS=492n RS=14.1m BV=200.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC303
.subckt PBPC304  1 2 3 4 
D1 2 4 DI_PBPC304
D2 1 4 DI_PBPC304
D3 3 2 DI_PBPC304
D4 3 1 DI_PBPC304
.MODEL DI_PBPC304 D (IS=492n RS=14.1m BV=400.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC304
.subckt PBPC305  1 2 3 4 
D1 2 4 DI_PBPC305
D2 1 4 DI_PBPC305
D3 3 2 DI_PBPC305
D4 3 1 DI_PBPC305
.MODEL DI_PBPC305 D (IS=492n RS=14.1m BV=600.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC305
.subckt PBPC306  1 2 3 4 
D1 2 4 DI_PBPC306
D2 1 4 DI_PBPC306
D3 3 2 DI_PBPC306
D4 3 1 DI_PBPC306
.MODEL DI_PBPC306 D (IS=492n RS=14.1m BV=800.0 IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC306
.subckt PBPC307  1 2 3 4 
D1 2 4 DI_PBPC307
D2 1 4 DI_PBPC307
D3 3 2 DI_PBPC307
D4 3 1 DI_PBPC307
.MODEL DI_PBPC307 D (IS=492n RS=14.1m BV=1.00kV IBV=10.0u CJO=102p M=0.333 N=2.45 TT=4.32u)
.ends PBPC307
.subckt PBPC601  1 2 3 4 
D1 2 4 DI_PBPC601
D2 1 4 DI_PBPC601
D3 3 2 DI_PBPC601
D4 3 1 DI_PBPC601
.MODEL DI_PBPC601 D (IS=2.37n RS=5.14m BV=50.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC601
.subckt PBPC602  1 2 3 4 
D1 2 4 DI_PBPC602
D2 1 4 DI_PBPC602
D3 3 2 DI_PBPC602
D4 3 1 DI_PBPC602
.MODEL DI_PBPC602 D (IS=2.37n RS=5.14m BV=100.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC602
.subckt PBPC603  1 2 3 4 
D1 2 4 DI_PBPC603
D2 1 4 DI_PBPC603
D3 3 2 DI_PBPC603
D4 3 1 DI_PBPC603
.MODEL DI_PBPC603 D (IS=2.37n RS=5.14m BV=200.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC603
.subckt PBPC604  1 2 3 4 
D1 2 4 DI_PBPC604
D2 1 4 DI_PBPC604
D3 3 2 DI_PBPC604
D4 3 1 DI_PBPC604
.MODEL DI_PBPC604 D (IS=2.37n RS=5.14m BV=400.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC604
.subckt PBPC605  1 2 3 4 
D1 2 4 DI_PBPC605
D2 1 4 DI_PBPC605
D3 3 2 DI_PBPC605
D4 3 1 DI_PBPC605
.MODEL DI_PBPC605 D (IS=2.37n RS=5.14m BV=600.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC605
.subckt PBPC606  1 2 3 4 
D1 2 4 DI_PBPC606
D2 1 4 DI_PBPC606
D3 3 2 DI_PBPC606
D4 3 1 DI_PBPC606
.MODEL DI_PBPC606 D (IS=2.37n RS=5.14m BV=800.0 IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC606
.subckt PBPC607  1 2 3 4 
D1 2 4 DI_PBPC607
D2 1 4 DI_PBPC607
D3 3 2 DI_PBPC607
D4 3 1 DI_PBPC607
.MODEL DI_PBPC607 D (IS=2.37n RS=5.14m BV=1.00kV IBV=10.0u CJO=102p M=0.333 N=1.63 TT=4.32u)
.ends PBPC607
.subckt RH02  1 2 3 4 
D1 2 4 DI_RH02
D2 1 4 DI_RH02
D3 3 2 DI_RH02
D4 3 1 DI_RH02
.MODEL DI_RH02 D (IS=2.25n RS=0.100 BV=200 IBV=5.00u CJO=24.0p M=0.333 N=1.70 TT=216n)
.ends RH02
.subckt RH04  1 2 3 4 
D1 2 4 DI_RH04
D2 1 4 DI_RH04
D3 3 2 DI_RH04
D4 3 1 DI_RH04
.MODEL DI_RH04 D (IS=2.25n RS=0.100 BV=400 IBV=5.00u CJO=24.0p M=0.333 N=1.70 TT=216n)
.ends RH04
.subckt RH06  1 2 3 4 
D1 2 4 DI_RH06
D2 1 4 DI_RH06
D3 3 2 DI_RH06
D4 3 1 DI_RH06
.MODEL DI_RH06 D (IS=2.25n RS=0.100 BV=600 IBV=5.00u CJO=24.0p M=0.333 N=1.70 TT=216n)
.ends RH06
.subckt W005G  1 2 3 4 
D1 2 4 DI_W005G
D2 1 4 DI_W005G
D3 3 2 DI_W005G
D4 3 1 DI_W005G
.MODEL DI_W005G D (IS=8.63u RS=28.0m BV=50.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W005G
.subckt W01G  1 2 3 4 
D1 2 4 DI_W01G
D2 1 4 DI_W01G
D3 3 2 DI_W01G
D4 3 1 DI_W01G
.MODEL DI_W01G D (IS=8.63u RS=28.0m BV=100.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W01G
.subckt W02G  1 2 3 4 
D1 2 4 DI_W02G
D2 1 4 DI_W02G
D3 3 2 DI_W02G
D4 3 1 DI_W02G
.MODEL DI_W02G D (IS=8.63u RS=28.0m BV=200.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W02G
.subckt W04G  1 2 3 4 
D1 2 4 DI_W04G
D2 1 4 DI_W04G
D3 3 2 DI_W04G
D4 3 1 DI_W04G
.MODEL DI_W04G D (IS=8.63u RS=28.0m BV=400.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W04G
.subckt W06G  1 2 3 4 
D1 2 4 DI_W06G
D2 1 4 DI_W06G
D3 3 2 DI_W06G
D4 3 1 DI_W06G
.MODEL DI_W06G D (IS=8.63u RS=28.0m BV=600.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W06G
.subckt W08G  1 2 3 4 
D1 2 4 DI_W08G
D2 1 4 DI_W08G
D3 3 2 DI_W08G
D4 3 1 DI_W08G
.MODEL DI_W08G D (IS=8.63u RS=28.0m BV=800.0 IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W08G
.subckt W10G  1 2 3 4 
D1 2 4 DI_W10G
D2 1 4 DI_W10G
D3 3 2 DI_W10G
D4 3 1 DI_W10G
.MODEL DI_W10G D (IS=8.63u RS=28.0m BV=1.00kV IBV=5.00u CJO=22.5p M=0.333 N=3.21 TT=4.32u)
.ends W10G

.subckt DI_MUR1540  1 2 3 4 
D1 2 4 DI_MUR1540
D2 1 4 DI_MUR1540
D3 3 2 DI_MUR1540
D4 3 1 DI_MUR1540
.MODEL DI_MUR1540 d IS=2.22514e-06 RS=0.0162158 N=2.11499 EG=1.13394 XTI=2.91481 
+BV=400 IBV=1e-05 CJO=5.96204e-10 VJ=0.4 M=0.400488 FC=0.5 TT=7.79055e-08 KF=0 AF=1
.ENDS MUR1540
